US05594010
2-Cyclopropyl-5,7-dimethyl-3-(6-bromopyridin-3-ylmethyl)imidazo[4,5-b]pyridine
255 mg (6.4 mmol) of sodium hydride and 994 mg (5.3 mmol) of 2-cyclopropyl-5,7-dimethylimidazo[4,5-b]pyridine are stirred at 0° C. for 2 h in 15 ml of dimethyl sulphoxide. After adding 2 g (7.97 mmol) of 2-bromo-5-bromomethylpyridine, the mixture is stirred at room temperature overnight. The reaction mixture is diluted with water and washed twice with ethyl acetate; the combined organic phases are washed with water and sodium chloride solution, dried over sodium sulphate and then chromatographed on 150 g of silica gel using ethyl acetate/petroleum ether mixtures 1:2→1:0 to yield 1.32 g of the title compound.

reactant | sodium hydride | 6.4 mmol, 255 mg | [H-].[Na+]
reactant | 2-cyclopropyl-5,7-dimethylimidazo[4,5-b]pyridine | 5.3 mmol, 994 mg | C1(CC1)C=1NC=2C(=NC(=CC2C)C)N1 | C11H13N3
reactant | 2-bromo-5-bromomethylpyridine | 7.97 mmol, 2 g | BrC1=NC=C(C=C1)CBr | C6H5Br2N
solvent | dimethyl sulphoxide | 15 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-Cyclopropyl-5,7-dimethyl-3-(6-bromopyridin-3-ylmethyl)imidazo[4,5-b]pyridine | 1.32 g, Yield: 69.7% | C1(CC1)C1=NC=2C(=NC(=CC2C)C)N1CC=1C=NC(=CC1)Br | C17H17BrN4
